US08937071B2
To a solution of 2-(4-bromo-2-fluorophenyl)acetic acid (100 mg, 0.429 mmol), 6-(2-(dimethylamino)ethoxy)-5-(trifluoromethyl)pyridin-3-amine (107 mg, 0.429 mmol) and HATU (245 mg, 0.644 mmol) in DCM (15 mL) was added DIEA (0.225 mL, 1.287 mmol). The resulting mixture was stirred at 20° C. for 16 h. The mixture was washed with H2O (20 mL) and brine (20 mL). The organic layer was dried over Na2SO4, filtered and concentrated. The crude product was purified by preparative TLC (DCM/MeOH=10/1) to yield a brown oil of 2-(4-bromo-2-fluorophenyl)-N-(6-(2-(dimethylamino)ethoxy)-5-(trifluoromethyl)pyridin-3-yl)acetamide (130 mg, 0.273 mmol, 63.7% yield): 1H NMR (400 MHz, CD3OD) δ 8.51 (d, J=2.0 Hz, 1H), 8.29 (d, J=2.4 Hz, 1H), 7.38-7.26 (m, 4H), 4.62 (t, J=5.4 Hz, 2H), 3.75 (s, 2H), 3.08 (t, J=5.2 Hz, 2H), 2.56 (s, 6H); ES-LCMS m/z 464.0 (M+H).

reactant | 2-(4-bromo-2-fluorophenyl)acetic acid | 0.429 mmol, 100 mg | BrC1=CC(=C(C=C1)CC(=O)O)F | C8H6BrFO2
reactant | 6-(2-(dimethylamino)ethoxy)-5-(trifluoromethyl)pyridin-3-amine | 0.429 mmol, 107 mg | CN(CCOC1=C(C=C(C=N1)N)C(F)(F)F)C | C10H14F3N3O
reactant | HATU | 0.644 mmol, 245 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.287 mmol, 0.225 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-bromo-2-fluorophenyl)-N-(6-(2-(dimethylamino)ethoxy)-5-(trifluoromethyl)pyridin-3-yl)acetamide | 0.273 mmol, 130 mg, 63.7% yield | BrC1=CC(=C(C=C1)CC(=O)NC=1C=NC(=C(C1)C(F)(F)F)OCCN(C)C)F | C18H18BrF4N3O2
